US03993763
To the solution of 10 g ethyl 4-nitrophenylacetate in 400 ml dimethyl formamide-toluene (1:1), 2.5 g 50% sodium hydride are added portionwise during 15 minutes while stirring and cooling with ice, after which the solution of 9.6 g cyclopropylmethyl bromide in 50 ml toluene is added dropwise and the mixture stirred overnight at room temperature. It is diluted with 200 ml water, extracted with diethyl ether, the extract dried, evaporated, the residue distilled and the fraction boiling at 132°-138°/0.25 mm Hg collected, to yield the ethyl α-(4-nitrophenyl)-β-cyclopropylpropionate.

reactant | ethyl 4-nitrophenylacetate | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 9.6 g | C1(CC1)CBr | C4H7Br
solvent | dimethyl formamide toluene | 400 ml | CN(C=O)C.C1(=CC=CC=C1)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | ethyl α-(4-nitrophenyl)-β-cyclopropylpropionate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)CC1CC1 | C14H17NO4
